US05378718
10-Bromodecanol
A solution of 50 g of decane-1,10-diol in 300 ml of 48% aqueous hydrobromic acid was heated at 90° C. for 24 hours while the solution was extracted continuously with petroleum ether 100-140. After cooling to room temperature, the petroleum ether solution was evaporated and the residue was purified by distillation. Boiling point 121°-124° C. (0.1 mm Hg).

reactant | decane-1,10-diol | 50 g | C(CCCCCCCCCO)O | C10H22O2
reactant | hydrobromic acid | 300 ml | Br | BrH
product | 10-Bromodecanol | BrCCCCCCCCCCO | C10H21BrO
